US09428508B2
To a solution of methylamine (0.43 g, 13.9 mmol, prepared from 33% aqueous solution and sodium hydroxide) in acetonitrile (20 mL) was added 4-aminobenzo[d][1,3]dioxole-5-carboxylic acid (1.68 g, 9.3 mmol), N,N′-diisopropylethylamine (3.24 mL, 18.6 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N″-tetramethyluronium hexafluorophosphate (HATU, 4.28 g, 11.2 mmol). The mixture was stirred at room temperature for 12 hours, and then evaporated. The residue was diluted with dichloromethane, washed by water, dried over anhydrous sodium sulfate, concentrated and purified by silica gel chromatography to afford the product 4-amino-N-methylbenzo[d][1,3]dioxole-5-carboxamide (1.48 g, yield 82%). 1H NMR (400 MHz, CDCl3) δ ppm 6.95-6.98 (d, 1H, J=8.4 Hz), 6.24-6.26 (d, 1H, J=8.0 Hz), 5.97 (s, 2H), 2.94-2.95 (m, 3H).

reactant | methylamine | 13.9 mmol, 0.43 g | CN | CH5N
reactant | 4-aminobenzo[d][1,3]dioxole-5-carboxylic acid | 9.3 mmol, 1.68 g | NC1=C(C=CC=2OCOC21)C(=O)O | C8H7NO4
reactant | N,N′-diisopropylethylamine | 18.6 mmol, 3.24 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-amino-N-methylbenzo[d][1,3]dioxole-5-carboxamide | 1.48 g, yield 82% | NC1=C(C=CC=2OCOC21)C(=O)NC | C9H10N2O3
